Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
headache, UTI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ woman with HTN, HL, hypothyroidism and a 
history of ___ prior UTIs in the past several years who presents 
with 3 days of general malaise, poor PO intake, and headaches 
with associated neck pain. She was recently admitted in ___ 
for UTI and campylobacter colitis, treated with 10 day course of 
ciprofloxacin. 

She describes her headache as waxing and waning and relieved a 
little with Tylenol. She denies any radiation of pain down her 
arms. There are no visual changes or photophobia associated with 
headaches. She denies waking up in the middle of the night with 
headaches. She also has chronic lower back and left knee pain. 
She denies fever, chills, or trauma. 

She denies any dysuria, change in urinary frequency, abdominal 
pain. She endorses some nausea, but has not vomited. She also 
feels dizzy at times. 

-In the ED, initial vitals: 97.0 88 120/80 18 99% RA
-Exam was notable for no temporal artery tenderness or 
enlargement, non meningismus, no focal neurological deficits   
-Labs were significant for: WBC 14.8, U/A large ___, 46 WBC, few 
bacteria, 8 epis.  
-CXR, CT-C spine with no acute process. CT head showed findings 
suggesting chronic right maxillary sinus inflammation. No 
evidence of hemorrhage, edema, mass or infarction. 
-In the ED, she received:
___ 00:35 PO Acetaminophen 1000 mg 
___ 06:11 IV CeftriaXONE 1 gm 
___ 12:31 IVF 1000 mL NS 1000 mL  

Vitals prior to transfer: 97.8 61 120/69 16 100% RA  

On arrival to the floor, she endorsed the story as narrated 
above.   
 
ROS: As per HPI
 
Past Medical History:
Hypothyroidism  
Hyperlipidemia  
Hypertension  
History of positive PPD ___, no follow up CXR  
Persistently elevated alk phos  
Prior sphincterotomy  
Pterygium removal OD ___  
Cholelithiasis s/p cholecystectomy in ___  

 
Social History:
___
Family History:
She denied any family history of urinary or kidney infections. 
 
Physical Exam:
ADMISSION EXAM
--------------
VS: 97.7 117/61 56 18 99%RA   
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. No 
maxillary or frontal sinus tenderness.   
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended, no CVA tenderness
GU: No foley, no suprapubic tenderness  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
MSK: No pain or radiation of pain on flexion and extension of 
the neck or Spurling's manuever

DISCHARGE EXAM
--------------
Vitals: 98.1, 98.1, 117/61, 58, 100 RA   
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. No 
maxillary or frontal sinus tenderness.   
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended
GU: No foley, no suprapubic tenderness  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 11:50PM BLOOD WBC-14.8* RBC-4.13# Hgb-12.6# Hct-38.6# 
MCV-94 MCH-30.5 MCHC-32.6 RDW-14.1 RDWSD-47.9* Plt ___
___ 11:50PM BLOOD Neuts-84.5* Lymphs-8.7* Monos-5.9 
Eos-0.4* Baso-0.1 Im ___ AbsNeut-12.53* AbsLymp-1.29 
AbsMono-0.88* AbsEos-0.06 AbsBaso-0.01
___ 11:50PM BLOOD Plt ___
___ 11:50PM BLOOD ___ PTT-23.7* ___
___ 11:50PM BLOOD Glucose-116* UreaN-19 Creat-0.9 Na-138 
K-4.0 Cl-96 HCO3-29 AnGap-17
___ 11:50PM BLOOD cTropnT-<0.01
___ 05:55AM BLOOD cTropnT-<0.01
___ 11:50PM BLOOD Calcium-9.1 Phos-3.4 Mg-1.9

PERTINENT LABS
--------------
___ 11:50PM BLOOD CRP-4.3
___ 09:55PM BLOOD Lactate-1.4

DISCHARGE LABS
--------------
___ 05:39AM BLOOD WBC-7.0# RBC-3.73* Hgb-11.5 Hct-35.7 
MCV-96 MCH-30.8 MCHC-32.2 RDW-14.2 RDWSD-49.7* Plt ___
___ 05:39AM BLOOD Plt ___
___ 05:39AM BLOOD Glucose-74 UreaN-13 Creat-0.8 Na-136 
K-3.9 Cl-98 HCO3-28 AnGap-14
___ 05:39AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.9

MICRO
-----
___ 8:34 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 3:15 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
------------
+ CXR (___): No acute cardiopulmonary process. 
+ CT Head (___): Findings suggesting chronic right maxillary 
sinus inflammation. No evidence of hemorrhage, edema, mass or 
infarction. 
+ CT C Spine (___):  Degenerative disc disease with no 
evidence of fracture or subluxation related to trauma. 
 
Brief Hospital Course:
___ yo woman with HTN, HL, hypothyroidism admitted with 3 days of 
general malaise and headache with neck pain and UA positive for 
UTI (+pyuria, +microscopic hematuria) and CT head with no 
evidence of hemorrhage, edema, mass or infarction, but findings 
suggestive of chronic right maxillary sinusitis. We started her 
on IV Ceftriaxone for concurrent treatment of UTI and sinusitis, 
which we transitioned to Bactrim on discharge with urine 
cultures pending on discharge. She received two doses of 
Ceftriaxone at the hospital (Day 1 = ___ and she was given 2 
DS Bactrim tablets to complete a 3-day course of ABX for 
uncomplicated UTI. She reported her headache was also improved 
on the day of discharge and ___ felt she was mobile without any 
___ needs on the day of discharge. Etiology of headache presumed 
to be from an atypical presentation of UTI in an elderly woman 
vs. sinusitis, but she did not have any typical sinusitis 
symptoms (no frontal headache, maxillary tenderness, URI sx); 
therefore, we deferred ABX treatment for chronic sinusitis and 
encouraged OTC nasal saline spray rinses.

TRANSITIONAL ISSUES
-last day of antibiotics = ___
-Please consider paring down on medications in this elderly 
woman who is at risk for falls; we would recommend d/c-ing 
Simvistatin and also re-considering ASA dose (she was on high 
dose 325 mg for indication for unclear reason) and if she needs 
to be on it at all
-Please consider treating chronic sinusitis if she develops 
worsening headache and URI sx
-will need to follow-up blood culture

# CODE STATUS: Full, confirmed 
# CONTACT: Daughter ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. Simvastatin 10 mg PO QPM 
4. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
5. Aspirin 325 mg PO DAILY 
6. Calcium Carbonate 600 mg PO BID 
7. Artificial Tears ___ DROP BOTH EYES QID 
8. Multivitamins 1 TAB PO DAILY 
9. Senna 8.6 mg PO BID:PRN Constipation 
10. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 1 Day 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*2 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  Artificial Tears ___ DROP BOTH EYES QID  
4.  Aspirin 325 mg PO DAILY  
5.  Calcium Carbonate 600 mg PO BID  
6.  Docusate Sodium 100 mg PO BID  
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 40 mg PO DAILY  
10.  Senna 8.6 mg PO BID:PRN Constipation  
11.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Urinary tract infection, uncomplicated
Chronic sinusitis 
Headache 

Secondary Diagnoses:
Hypothyroidism  
Hyperlipidemia  
Hypertension  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.  

You were admitted to the hospital for ___ days of general 
malaise and new onset headache. Images of your head were not 
concerning for any trauma, but showed some chronic inflammation 
in your sinuses. It was also found you had an infection in your 
urine. Your blood pressure was also low when you came to the 
hospital and improved when we gave you fluids.  

You received 2 doses of antibiotics in the hospital and were 
given an oral antibiotic to take by mouth at home for the 
urinary infection. Your headache and feeling of general weakness 
seemed to improve after the first dose of antibiotics. 

You did not have any sinusitis symptoms or signs (frontal 
headache, sinus tenderness, nasal congestion, runny nose), but 
if you develop these symptoms, please see your primary care 
doctor who can evaluate you further and also suggest treatment. 
Regular nasal saline spray rinses at home may also help improve 
inflammation in the sinuses. 

Please take your medications as prescribed and follow-up with 
your primary care doctor after you leave the hospital. 

Warmly,
Your ___ medical team 
 
Followup Instructions:
___